US05756504
1-(2,4-Dimethoxyphenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide
4-(2-Methylphenyl)piperazine-2-carboxamide (39 mg, 0.18 mmol), 2,4-dimethoxyphenylacetic acid (42 mg, 0.21 mmol), EDC (42 mg, 0.22 mmol) and HBT (31 mg, 0.23 mmol) were combined in DMF (5 ml) and treated with triethylamine to adjust the pH to ca. 9 (moistened E. Merck colorpHast indicator). The mixture was stirred at ambient temperature for 64 hours. The solvent was removed in vacuo and the residue was chromatographed on silica gel eluted with 2% methanol in methylene chloride. The combined product fractions were evaporated to dryness in vacuo to provide the title compound.

reactant | 4-(2-Methylphenyl)piperazine-2-carboxamide | 0.18 mmol, 39 mg | CC1=C(C=CC=C1)N1CC(NCC1)C(=O)N | C12H17N3O
reactant | 2,4-dimethoxyphenylacetic acid | 0.21 mmol, 42 mg | COC1=C(C=CC(=C1)OC)CC(=O)O | C10H12O4
reactant | EDC | 0.22 mmol, 42 mg
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-Dimethoxyphenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide | COC1=C(C=CC(=C1)OC)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C22H27N3O4
